US08283326B2
(2-Methyl-5-nitro-phenyl)-(4-methoxy-phenyl)-methanone
To a mixture of 2-methyl-5-nitro-benzoic acid (50 g) in dichloromethane (330 mL) is added oxalyl chloride (25.5 mL) followed by dimethylformamide (0.5 mL). The reaction mixture is stirred at ambient temperature for 14 h, then filtered and separated from all volatile constituents in a rotary evaporator. The residue is dissolved in dichloromethane (100 mL), the resulting solution is cooled to −5° C., and anisole (31 mL) is added. Then aluminum trichloride (37.5 g) is added batchwise so that the temperature maintains below 5° C. The solution is stirred for another 1 h at 1 to 5° C. and then poured onto crushed ice. The organic phase is separated and the aqueous phase is extracted with dichloromethane. The combined organic phases are washed with aqueous hydrochloric acid (1 mol/L), twice with aqueous sodium hydroxide solution (1 mol/L) and with brine. The organic phase is dried (sodium sulphate), the solvent is removed and the residue is recrystallised from ethanol.

reactant | 2-methyl-5-nitro-benzoic acid | 50 g | CC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
reactant | oxalyl chloride | 25.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 330 mL | ClCCl | CH2Cl2
product | (2-Methyl-5-nitro-phenyl)-(4-methoxy-phenyl)-methanone | CC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=CC=C(C=C1)OC | C15H13NO4
